### PR TITLE
feat(NumberTheory/Padics/RingHoms): add 3 lemmas

### PR DESCRIPTION
**Pull request by NirvanaC93**
added lemmas: zmodRepr_one, zmodRepr_coe_ne_zero_of_isUnit, zmodRepr_coe_ne_zero_iff_isUnit

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/Padics/RingHoms.lean [hunk 1]
```diff
@@ -259,6 +259,19 @@ lemma zmodRepr_units_ne_zero (x : ℤ_[p]ˣ) : x.val.zmodRepr ≠ 0 := by
...
+  rw_mod_cast [ZMod.natCast_eq_zero_iff]
+  exact Nat.not_dvd_of_pos_of_lt
+    (Nat.ne_zero_iff_zero_lt.mp (PadicInt.zmodRepr_units_ne_zero hx.unit)) (zmodRepr_lt_p x)
+
+lemma zmodRepr_coe_ne_zero_iff_isUnit {x : ℤ_[p]} :
+    IsUnit x ↔ ((x.zmodRepr : ℤ) : ZMod p) ≠ 0 := by
+  refine ⟨zmodRepr_coe_ne_zero_of_isUnit, fun h ↦ ?_⟩
+  rw [PadicInt.isUnit_iff, ← PadicInt.norm_natCast_zmodRepr_eq_one_iff,
+    PadicInt.norm_natCast_zmodRepr_eq_one_iff_ne]
+  aesop
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Padics/RingHoms.lean:273]: I don't think it makes sense to have lemmas about `((x.zmodRepr : ℤ) : ZMod p)`; rather, one should use `x.toZMod`.

Also, why do you need `x.zmodRepr` coerced to an integer?

Comment (NirvanaC93) [reply Mathlib/NumberTheory/Padics/RingHoms.lean:273]: Hello Michael! Thanks for looking into this. The reason I needed these two lemmas is because I was trying to make an API for legendre symbol over \Z_[p]. In particular, I used the following definition: 
```noncomputable def legendreSym (a : ℤ_[p]) : ℤ := _root_.legendreSym p a.zmodRepr ```
and in several lemmas I needed precisely the statements I PR'ed. If you have better suggestions on how to do this I'm happy to make changes!

**Comment by NirvanaC93** [comment]
-awaiting-author

File: Mathlib/NumberTheory/Padics/RingHoms.lean (hunk 1 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/Padics/RingHoms.lean:273]: Hi Nirvana!

I think it would be better to do the following.
First, define
```lean
namespace MulChar

variable {M M' R F : Type*} [CommMonoid M] [CommMonoid M'] [CommMonoidWithZero R]
  [FunLike F M' M] [MonoidHomClass F M' M]

@[simps]
def compMonoidHom (χ : MulChar M R) (f : F) [IsLocalHom f] : MulChar M' R where
  toFun m' := χ (f m')
  map_one' := by simp
  map_mul' := by simp
  map_nonunit' m' hm' := map_nonunit χ (isUnit_map_iff f m' |>.not.mpr hm')
```
say, after the section on `ringHomComp` in Mathlib.NumberTheory.MulChar.Basic.

Then you can define
```lean
namespace PadicInt

variable (p : ℕ) [Fact (Nat.Prime p)] -- or maybe {p}

noncomputable
def legendreSym : MulChar ℤ_[p] ℤ := (quadraticChar (ZMod p)).compMonoidHom toZMod
```
This has the benefit of giving you a multiplicative character instead of a plain map.

Can you say more about what you want to do with the Legendre symbol on ℤ_p?
